US09302991B2
<Step-3>:(R)—N-(1-(2-fluoro-3-(trifluoromethyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 56% yield (511 mg, a white solid) from 1-(2-fluoro-3-(trifluoromethyl)phenyl)ethanone (600 mg, 2.91 mmol, Step-2) and (R)-2-methylpropane-2-sulfinamide (529 mg, 4.37 mmol) by the similar manner in Step-4 of Amine-1.

reactant | 1-(2-fluoro-3-(trifluoromethyl)phenyl)ethanone | 2.91 mmol, 600 mg | FC1=C(C=CC=C1C(F)(F)F)C(C)=O | C9H6F4O
reactant | (R)-2-methylpropane-2-sulfinamide | 4.37 mmol, 529 mg | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(2-fluoro-3-(trifluoromethyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 56% yield | FC1=C(C=CC=C1C(F)(F)F)C(C)N[S@](=O)C(C)(C)C | C13H17F4NOS
